2176-04-27 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Dobutamine started for Cardiogenic shock, continued troponin elevation
   with decreasing lactate
   Transfused 1 unit
   Vigileo attached to art line and measuring cardiac output:  3.9
   L/min--leaving dobutamine at 3 for now
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Micafungin - [**2176-4-26**] 08:00 PM
   Linezolid - [**2176-4-27**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Dobutamine - 3 mcg/Kg/min
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2176-4-26**] 10:35 AM
   Heparin Sodium (Prophylaxis) - [**2176-4-27**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-27**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 93 (80 - 113) bpm
   BP: 77/47(56) {77/47(56) - 117/78(89)} mmHg
   RR: 14 (13 - 38) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CO/CI (Fick): (6.1 L/min) / (3.7 L/min/m2)
   Mixed Venous O2% Sat: 63 - 70
   Total In:
                                                                  5,441 mL
                                                                  1,665 mL
   PO:
   TF:
                                                                     20 mL
   IVF:
                                                                  4,961 mL
                                                                  1,056 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,215 mL
                                                                    880 mL
   Urine:
                                                                  3,210 mL
                                                                    630 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  2,226 mL
                                                                    785 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.47/31/168/18/0
   Ve: 5.8 L/min
   PaO2 / FiO2: 420
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   scattered expiratory wheezes, Rhonchorous: bilaterally), Poor air
   movement
   Abdominal: Soft, Non-tender, Diminished bowel sounds, ostomy present
   Extremities: Distal pulses difficult to assess, extremities ice cold
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   122 K/uL
   10.0 g/dL
   80 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.3 mEq/L
   15 mg/dL
   95 mEq/L
   127 mEq/L
   28.1 %
   21.4 K/uL
        [image002.jpg]
                             [**2176-4-26**]  11:27 AM
                             [**2176-4-26**]  12:00 PM
                             [**2176-4-26**]  01:30 PM
                             [**2176-4-26**]  04:33 PM
                             [**2176-4-26**]  05:15 PM
                             [**2176-4-26**]  09:00 PM
                             [**2176-4-26**]  09:07 PM
                             [**2176-4-27**]  03:53 AM
                             [**2176-4-27**]  06:32 AM
                             [**2176-4-27**]  06:58 AM
   WBC
   21.2
   21.4
   Hct
   32.5
   24.7
   28.1
   Plt
   125
   122
   Cr
   0.8
   0.6
   TropT
   0.20
   0.26
   TCO2
   16
   16
   22
   21
   23
   Glucose
   426
   256
   313
   80
   Other labs: Differential-Neuts:91.6 %, Band:1.0 %, Lymph:5.6 %,
   Mono:2.2 %, Eos:0.3 %, Ca++:6.4 mg/dL, Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: Labs Pending
   [**2176-4-26**] 09:00PM    13 15.1 0.26
   [**2176-4-26**] 12:00PM    12 12.5 0.20
   O2Sat: 70
   Imaging:
   Echo: Left ventricular wall thicknesses are normal. The left
   ventricular cavity size is normal. There is severe global left
   ventricular hypokinesis (LVEF = 20 %). No masses or thrombi are seen in
   the left ventricle. with moderate global free wall hypokinesis. There
   is a small pericardial effusion. There are no echocardiographic signs
   of tamponade.
   Compared with the prior study (images reviewed) of [**2176-4-25**], the RV
   systolic function is slightly worse and the pericardial effusion is
   slightly larger (still small, without evidence of tamponade).
   Microbiology: [**4-25**] Blood & Urine Cx Pending
   MRSA Screen pending
   Assessment and Plan
   60 year old woman with history of ALL s/p transplant and multiple
   rounds of chemotherapy and donor lymphocyte infusions, s/p asystolic
   cardiac arrest, now back to [**Hospital Unit Name 10**] with acute shortness of breath.
   #) Acute respiratory distress: Given the patient
s description of
   anxiety, elevated cardiac enzymes and [**Last Name (un) 6322**] cardiac function it is
   likely that she has had an ischemic event at some point prior to her
   transfer to the ICU.  This transient ischemia likely led to poor
   forward flow and flash pulmonary edema.  She appears to be recovering
   at this point.
   - Attempt PSV with lighter sedation
   - Diurese 1-2L
   #) Cardiogenic shock. Physical exam findings, mixed venous O2 sats, and
   pulmonary edema are suggestive of cardiogenic shock. Echo shows
   worsening mitral regurgitation. EF on echocardiogram today is 20%.  The
   patient
s cardiac output lived around 3.5 overnight per Vigileo
   monitoring.  Lactates and Venous O2 sats improving.
   - Continue dobutamine to promote forward flow, wean throughout the day
   based on patients clinical status
   - Trend mixed venous O2 sats Q6H
   - Follow lactates to assess perfusion Q6H
   #) VRE bacteremia/Omaya infection s/p removal/CNS infection. Continue
   linezolid. No role for repeating lumbar puncture for now.
   #) Transaminitis. Was resolving s/p arrest, now elevated (likely in
   setting of hypotension and ? PEA arrest peri-intubation). Will continue
   to trend, resolving once again
   #) Leukemia. No peripheral blasts. Oncology to consider IT chemotherapy
   if she continues to recover.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-4-27**] 06:00 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2176-4-26**] 11:01 AM
   Arterial Line - [**2176-4-26**] 04:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2176-04-28 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**4-27**]
   -Had to increase pressor support temporarily yesterday, able to wean
   back down
   - hyponatremia progressing this AM, free water further restricted
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Atovaquone - [**2176-4-27**] 12:17 PM
   Micafungin - [**2176-4-27**] 08:00 PM
   Linezolid - [**2176-4-28**] 02:00 AM
   Acyclovir - [**2176-4-28**] 06:02 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Dobutamine - 3 mcg/Kg/min
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2176-4-27**] 11:45 PM
   Heparin Sodium (Prophylaxis) - [**2176-4-28**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-28**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.3
C (95.6
   HR: 112 (92 - 120) bpm
   BP: 101/60(74) {80/49(61) - 115/67(83)} mmHg
   RR: 21 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
    Mixed Venous O2% Sat: 72 - 72
   Total In:
                                                                  3,142 mL
                                                                  1,202 mL
   PO:
   TF:
                                                                    350 mL
                                                                    353 mL
   IVF:
                                                                  1,872 mL
                                                                    820 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,565 mL
                                                                  2,080 mL
   Urine:
                                                                  3,315 mL
                                                                  1,880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -423 mL
                                                                   -878 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 347 (316 - 414) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 39
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.49/33/101/22/2
   Ve: 7.8 L/min
   PaO2 / FiO2: 337
   Physical Examination
   Sedated, opens eyes to command and tracks but does not squeeze hands.
   Moves toes B/L to command. Ext warm w/o cyanosis. Abd soft NTND +BS,
   PERRLA
   Labs / Radiology
   111 K/uL
   10.1 g/dL
   125 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.8 mEq/L
   11 mg/dL
   88 mEq/L
   118 mEq/L
   28.2 %
   16.3 K/uL
        [image002.jpg]
                             [**2176-4-26**]  09:00 PM
                             [**2176-4-26**]  09:07 PM
                             [**2176-4-27**]  03:53 AM
                             [**2176-4-27**]  06:32 AM
                             [**2176-4-27**]  06:58 AM
                             [**2176-4-27**]  10:57 AM
                             [**2176-4-27**]  02:21 PM
                             [**2176-4-27**]  02:42 PM
                             [**2176-4-27**]  09:51 PM
                             [**2176-4-28**]  05:08 AM
   WBC
   21.4
   18.0
   16.4
   16.3
   Hct
   24.7
   28.1
   27.9
   28.2
   Plt
   122
   89
   110
   111ECHO
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   TropT
   0.26
   0.21
   0.22
   TCO2
   22
   21
   23
   25
   26
   Glucose
   80
   85
   94
   121
   125
   Other labs: PT / PTT / INR:14.0/41.2/1.2, CK / CKMB /
   Troponin-T:49/10/0.22, ALT / AST:505/241, Alk Phos / T Bili:266/0.8,
   Amylase / Lipase:76/50, Differential-Neuts:94.0 %, Band:1.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:448 mg/dL, Lactic
   Acid:2.5 mmol/L, Albumin:2.3 g/dL, LDH:483 IU/L, Ca++:6.8 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Imaging: ECHO: Left ventricular wall thicknesses are normal. The left
   ventricular cavity size is normal. There is severe global left
   ventricular hypokinesis (LVEF = 20 %). No masses or thrombi are seen in
   the left ventricle. with moderate global free wall hypokinesis. There
   is a small pericardial effusion. There are no echocardiographic signs
   of tamponade.
   Compared with the prior study (images reviewed) of [**2176-4-25**], the RV
   systolic function is slightly worse and the pericardial effusion is
   slightly larger (still small, without evidence of tamponade)
   CXR:   mild interval improvemnet in pulm vasc congestion, but concern
   for RLL and R diaphragm less visible
   Microbiology: No VRE in blood since [**4-11**]
   VRE in CSF: 518, [**4-16**]
   BCX pending [**4-26**]
   UCx pending [**4-26**]
   Sputum [**4-26**] discarded
   Assessment and Plan
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 SHOCK, CARDIOGENIC
 CARDIAC DYSRHYTHMIA OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERATION IN NUTRITION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   60 year old woman with history of ALL s/p transplant and multiple
   rounds of chemotherapy and donor lymphocyte infusions, s/p asystolic
   cardiac arrest, now back to [**Hospital Unit Name 10**] with acute shortness of breath.
   #) Acute respiratory distress: Given the patient
s description of
   anxiety, elevated cardiac enzymes and [**Last Name (un) 6322**] cardiac function it is
   likely that she has had an ischemic event at some point prior to her
   transfer to the ICU.  This transient ischemia likely led to poor
   forward flow and flash pulmonary edema.
   - will aim for more volume removal prior to repeat SBT, goal out 1-2 L
   per day.
   - Diurese 1-2L
   - d/w lab re: processing of endotracheal sputum which was discarded
   #) Cardiogenic shock. Physical exam findings, mixed venous O2 sats, and
   pulmonary edema are suggestive of cardiogenic shock. Echo shows
   worsening mitral regurgitation. EF on echocardiogram is 20%.   Lactates
   and Venous O2 sats improving.  She appears to be recovering at this
   point with increased UOP implying improved forward flow, but still on
   dobutamine, neo.
   - Continue dobutamine to promote forward flow, wean throughout the day
   based on patients clinical status
   - Trend mixed venous O2 sats Q6H
   - Follow lactates to assess perfusion Q6H
   #) VRE bacteremia/Omaya infection s/p removal/CNS infection. Continue
   linezolid. No role for repeating lumbar puncture for now.
   --TEE tomorrow afternoon to determine whether tx course for VRE
   endocarditis necessary
   #) Transaminitis. Was resolving s/p arrest, now elevated (likely in
   setting of hypotension and ? PEA arrest peri-intubation). Will continue
   to trend, resolving once again
   #) Leukemia. No peripheral blasts. Oncology to consider IT chemotherapy
   if she continues to recover.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-4-28**] 03:17 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-4-26**] 11:01 AM
   Arterial Line - [**2176-4-26**] 04:16 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2176-04-29 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Still required norepi and dobutamine yesterday--per nursing report
   unable to wean
   UOP excellent: greater than 3L negative yesterday
   Na trending down, will consult renal
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Atovaquone - [**2176-4-27**] 12:17 PM
   Micafungin - [**2176-4-28**] 08:00 PM
   Linezolid - [**2176-4-29**] 02:00 AM
   Acyclovir - [**2176-4-29**] 06:01 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Dobutamine - 3 mcg/Kg/min
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2176-4-28**] 10:55 AM
   Famotidine (Pepcid) - [**2176-4-28**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2176-4-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-29**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.4
C (95.8
   HR: 109 (106 - 123) bpm
   BP: 96/56(69) {80/50(60) - 124/73(91)} mmHg
   RR: 21 (19 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  2,016 mL
                                                                    578 mL
   PO:
             TF:
                                                                    536 mL
   IVF:
                                                                  1,406 mL
                                                                    533 mL
   Blood products:
   Total out:
                                                                  5,240 mL
                                                                    690 mL
   Urine:
                                                                  4,490 mL
                                                                    690 mL
   NG:
                                                                    300 mL
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                 -3,224 mL
                                                                   -112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 333 (304 - 385) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 59
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.52/34/128/24/5
   Ve: 6.7 L/min
   PaO2 / FiO2: 427
   Physical Examination
   Intubated, sedated but responsive to commands, squeezes right hand but
   not left. Yesterday moved toes bilaterally but not this am; still with
   b/l upper and lower ext edema. Peripheral pulses present without
   cyanosis in ext.
   Labs / Radiology
   108 K/uL
   9.3 g/dL
   112 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.5 mEq/L
   9 mg/dL
   86 mEq/L
   115 mEq/L
   25.6 %
   14.9 K/uL
        [image002.jpg]
                             [**2176-4-27**]  06:32 AM
                             [**2176-4-27**]  06:58 AM
                             [**2176-4-27**]  10:57 AM
                             [**2176-4-27**]  02:21 PM
                             [**2176-4-27**]  02:42 PM
                             [**2176-4-27**]  09:51 PM
                             [**2176-4-28**]  05:08 AM
                             [**2176-4-28**]  03:20 PM
                             [**2176-4-28**]  03:25 PM
                             [**2176-4-29**]  04:13 AM
   WBC
   18.0
   16.4
   16.3
   18.4
   14.9
   Hct
   28.1
   27.9
   28.2
   27.7
   25.6
   Plt
   89
   110
   111
   113
   108
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   TropT
   0.21
   0.22
   TCO2
   23
   25
   26
   29
   Glucose
   85
   94
   121
   125
   126
   112
   Other labs: PT / PTT / INR:13.9/59.1/1.2, CK / CKMB /
   Troponin-T:49/10/0.22, ALT / AST:322/76, Alk Phos / T Bili:218/1.1,
   Amylase / Lipase:76/50, Differential-Neuts:96.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:559 mg/dL, Lactic
   Acid:2.5 mmol/L, Albumin:2.3 g/dL, LDH:406 IU/L, Ca++:6.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Microbiology: Enterococcus in CSF on [**4-16**]
   Pending blood cx form [**4-26**], no VRE in blood since [**4-11**]
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 SHOCK, CARDIOGENIC
 CARDIAC DYSRHYTHMIA OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERATION IN NUTRITION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   60 year old woman with history of ALL s/p transplant and multiple
   rounds of chemotherapy and donor lymphocyte infusions, s/p asystolic
   cardiac arrest, intubated for acute shortness of breath associated with
   elevated cardiac enzymes, unclear if etiology was cardiac vs another
   source which then produced demand ischemia.
   #) Acute respiratory distress: Given the patient
s description of
   anxiety, elevated cardiac enzymes and poor cardiac function it is
   likely that she has had an ischemic event at some point prior to her
   transfer to the ICU.  This transient ischemia likely led to poor
   forward flow and flash pulmonary edema.  That said, we source of acute
   resp decompensation poorly understood.
   - SBT and extubation today (post TEE)
   - endotracheal sputum which was discarded will be processed per lab.
   # HYPONATREMIA: Certainly has enough CNS processes to produce SIDH,
   althought this seems to have been precipitated by hypotensive episode
   which brought her to the [**Hospital Unit Name 10**]. Possibly CNS process that led to both
   (now failing to move left arm
nnew focal deficit).
   - consult renal and start hypotonic saline
   - meds reviewed with pharmacy and preparations have been concentrated
   and switched to NS from D5 where possible
   - hold free water wherever possible
   - holding additonal diuresis as producing good urine with improvement
   in Cardiac output (on dobutamine).
   #) Cardiogenic shock. Physical exam findings, mixed venous O2 sats, and
   pulmonary edema are suggestive of cardiogenic shock. Echo shows
   worsening mitral regurgitation. EF on echocardiogram is 20%.   Lactates
   and Venous O2 sats improving initially improving on dobutamine and
   levo, but have been unable to follow [**1-1**] central line not drawing
   back..  She appears to be recovering at this point with increased UOP
   implying improved forward flow, but still on dobutamine, neo which
   could not beweaned yesterday
   - Although would like to wean pressors, priority today is the weaning
   of vent; will come off pressors as tolerated s/p extubation.
   #) VRE bacteremia/Omaya infection s/p removal/CNS infection. Continue
   linezolid. No role for repeating lumbar puncture for now.
   --TEE today to determine whether pt require treatment course for VRE
   endocarditis which is longer than course for CNS VRE
   -- Pt will eventually require a line holiday although currently
   requiring too many IV meds to pursue
   #) Transaminitis. Was resolving s/p arrest, now elevated (likely in
   setting of hypotension and ? PEA arrest peri-intubation). Will continue
   to trend, resolving once again
   #) Leukemia. No peripheral blasts. Oncology to consider IT chemotherapy
   if she continues to recover.
   ICU Care
   Nutrition:
   TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-4-26**] 11:01 AM
   Arterial Line - [**2176-4-26**] 04:16 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: h2b
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2176-04-30 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - hyponatremia- hypertonic saline increased appropriately 1 of Na/2h
   - held off on MRI since BP liable (for pituitary cause of SIADH), Renal
   attg does not think we need MRI b/c pt has many possible causes of
   SIADH from appropriate and inappropriate increases of ADH
   - minor issue atovaquone can also cause SIADH, allergic to sulfa, and
   will not change to dapsone until G6PD neg (per Hem/Onc)
   - instead checking for fxnal pit insuffic w/ prolactin, tsh
   - d/c'd midaz, fentanyl no on propofol
   - TEE showed no vegetations, had small pericard effusion but no
   tampanode
   - not able to wean levophed past 0.4, dobutamine 3
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Atovaquone - [**2176-4-27**] 12:17 PM
   Micafungin - [**2176-4-28**] 08:00 PM
   Acyclovir - [**2176-4-29**] 06:01 AM
   Linezolid - [**2176-4-30**] 02:25 AM
   Infusions:
   Dobutamine - 3 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-4-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2176-4-29**] 02:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-30**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.3
C (95.6
   HR: 102 (102 - 119) bpm
   BP: 99/56(71) {93/56(69) - 130/77(96)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 60 kg (admission): 61 kg
   Height: 63 Inch
             Total In:
                                                                  1,893 mL
                                                                    547 mL
   PO:
             TF:
   IVF:
                                                                  1,688 mL
                                                                    547 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    620 mL
   Urine:
                                                                  2,440 mL
                                                                    620 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                   -557 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 158 (158 - 416) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 30%
   RSBI: 33
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.47/35/148/22/2
   Ve: 5.8 L/min
   PaO2 / FiO2: 493
   Physical Examination
   Intubated, sedated but responsive to commands, squeezes right hand but
   not left. Yesterday moved toes bilaterally but not this am; still with
   b/l upper and lower ext edema. Peripheral pulses present without
   cyanosis in ext.
   Labs / Radiology
   106 K/uL
   8.5 g/dL
   100 mg/dL
   0.4 mg/dL
   22 mEq/L
   3.6 mEq/L
   7 mg/dL
   90 mEq/L
   118 mEq/L
   23.0 %
   15.3 K/uL
        [image002.jpg]
                             [**2176-4-28**]  03:20 PM
                             [**2176-4-28**]  03:25 PM
                             [**2176-4-29**]  04:13 AM
                             [**2176-4-29**]  04:20 PM
                             [**2176-4-29**]  05:42 PM
                             [**2176-4-29**]  08:22 PM
                             [**2176-4-29**]  10:14 PM
                             [**2176-4-30**]  04:10 AM
                             [**2176-4-30**]  04:23 AM
                             [**2176-4-30**]  06:50 AM
   WBC
   18.4
   14.9
   15.3
   Hct
   27.7
   25.6
   23.0
   Plt
   113
   108
   106
   Cr
   0.5
   0.5
   0.4
   0.4
   TCO2
   29
   27
   26
   27
   27
   26
   Glucose
   126
   112
   139
   100
   Other labs: PT / PTT / INR:13.8/46.7/1.2, CK / CKMB /
   Troponin-T:49/10/0.22, ALT / AST:322/76, Alk Phos / T Bili:218/1.1,
   Amylase / Lipase:76/50, Differential-Neuts:96.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:559 mg/dL, Lactic
   Acid:2.5 mmol/L, Albumin:2.3 g/dL, LDH:406 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   60 year old woman with history of ALL s/p transplant and multiple
   rounds of chemotherapy and donor lymphocyte infusions, s/p asystolic
   cardiac arrest, intubated for acute shortness of breath associated with
   elevated cardiac enzymes, unclear if etiology was cardiac vs another
   source which then produced demand ischemia.
   #) Acute respiratory distress: Given the patient
s description of
   anxiety, elevated cardiac enzymes and poor cardiac function it is
   likely that she has had an ischemic event at some point prior to her
   transfer to the ICU.  This transient ischemia likely led to poor
   forward flow and flash pulmonary edema.  That said, we source of acute
   resp decompensation poorly understood.
   - SBT and extubation today (post TEE)
   - endotracheal sputum which was discarded will be processed per lab.
   # HYPONATREMIA: Certainly has enough CNS processes to produce SIDH,
   althought this seems to have been precipitated by hypotensive episode
   which brought her to the [**Hospital Unit Name 10**]. Possibly CNS process that led to both
   (now failing to move left arm
nnew focal deficit).
   - consult renal and start hypotonic saline
   - meds reviewed with pharmacy and preparations have been concentrated
   and switched to NS from D5 where possible
   - hold free water wherever possible
   - holding additonal diuresis as producing good urine with improvement
   in Cardiac output (on dobutamine).
   #) Cardiogenic shock. Physical exam findings, mixed venous O2 sats, and
   pulmonary edema are suggestive of cardiogenic shock. Echo shows
   worsening mitral regurgitation. EF on echocardiogram is 20%.   Lactates
   and Venous O2 sats improving initially improving on dobutamine and
   levo, but have been unable to follow [**1-1**] central line not drawing
   back..  She appears to be recovering at this point with increased UOP
   implying improved forward flow, but still on dobutamine, neo which
   could not beweaned yesterday
   - Although would like to wean pressors, priority today is the weaning
   of vent; will come off pressors as tolerated s/p extubation.
   #) VRE bacteremia/Omaya infection s/p removal/CNS infection. Continue
   linezolid. No role for repeating lumbar puncture for now.
   --TEE today to determine whether pt require treatment course for VRE
   endocarditis which is longer than course for CNS VRE
   -- Pt will eventually require a line holiday although currently
   requiring too many IV meds to pursue
   #) Transaminitis. Was resolving s/p arrest, now elevated (likely in
   setting of hypotension and ? PEA arrest peri-intubation). Will continue
   to trend, resolving once again
   #) Leukemia. No peripheral blasts. Oncology to consider IT chemotherapy
   if she continues to recover.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-4-26**] 11:01 AM
   Arterial Line - [**2176-4-26**] 04:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-05-01 07:34:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - sputum has GNR, ? adjust Abx
   - extubated
   - 9pm Na 125, stopped hypertonic NaCl infusion
   - switched from po acyclovir to IV due to tolerance
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Linezolid - [**2176-4-30**] 02:25 AM
   Micafungin - [**2176-4-30**] 08:00 PM
   Acyclovir - [**2176-5-1**] 05:42 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2176-4-30**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2176-4-30**] 10:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-1**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 102 (89 - 111) bpm
   BP: 110/64(81) {99/58(73) - 120/71(88)} mmHg
   RR: 18 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 60 kg (admission): 61 kg
   Height: 63 Inch
             Total In:
                                                                  1,619 mL
                                                                    227 mL
   PO:
             TF:
   IVF:
                                                                  1,439 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  3,155 mL
                                                                    565 mL
   Urine:
                                                                  3,155 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,536 mL
                                                                   -338 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 315 (315 - 432) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 5.1 L/min
   Physical Examination
   GEN: Intubated, sedated but responsive to commands, squeezes right hand
   but not left.
   CV: RRR
   CHEST: b/l breath sound present
   ABD: soft, NT
   EXT: still with b/l upper and lower ext edema. Palpable pulses.
   Labs / Radiology
   116 K/uL
   7.8 g/dL
   88 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.9 mEq/L
   8 mg/dL
   93 mEq/L
   125 mEq/L
   21.6 %
   12.7 K/uL
        [image002.jpg]
                             [**2176-4-28**]  03:25 PM
                             [**2176-4-29**]  04:13 AM
                             [**2176-4-29**]  04:20 PM
                             [**2176-4-29**]  05:42 PM
                             [**2176-4-29**]  08:22 PM
                             [**2176-4-29**]  10:14 PM
                             [**2176-4-30**]  04:10 AM
                             [**2176-4-30**]  04:23 AM
                             [**2176-4-30**]  06:50 AM
                             [**2176-5-1**]  04:24 AM
   WBC
   14.9
   15.3
   12.7
   Hct
   25.6
   23.0
   21.6
   Plt
   108
   106
   116
   Cr
   0.5
   0.4
   0.4
   0.4
   TCO2
   29
   27
   26
   27
   27
   26
   Glucose
   112
   139
   100
   88
   Other labs: PT / PTT / INR:13.6/54.0/1.2, CK / CKMB /
   Troponin-T:49/10/0.22, ALT / AST:134/29, Alk Phos / T Bili:177/0.8,
   Amylase / Lipase:76/50, Differential-Neuts:91.4 %, Band:0.0 %,
   Lymph:5.4 %, Mono:1.8 %, Eos:1.3 %, Fibrinogen:559 mg/dL, Lactic
   Acid:2.5 mmol/L, Albumin:2.3 g/dL, LDH:406 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   60F w ALL (s/p txp, s/p chemotherapy, s/p donor lymphocyte infusion),
   currently w prolonged hospitalization since [**2176-2-27**] c/b VRE
   bacteremia w CNS involvement, as well as asystolic cardiac arrest w
   subsequent intubation for acute respiratory distress, now extubated.
   # Acute respiratory distress: Unclear etiology, but likely from flash
   pulmonary edema [**1-1**] cardiogenic shock from ischemic event given
   elevated cardiac enzymes and poor cardiac function. S/p intubation. Now
   improved, on O2 by NC.
   # Cardiogenic shock: Physical exam findings, mixed venous O2 sats, and
   pulmonary edema are suggestive of cardiogenic shock. Echo shows
   worsening mitral regurgitation. EF on echocardiogram is 20%.   Lactates
   and Venous O2 sats improving initially improving on dobutamine and
   levo, but have been unable to follow [**1-1**] central line not drawing
   back..  She appears to be recovering at this point with increased UOP
   implying improved forward flow, but still on dobutamine.
   - although would like to wean pressors, priority today is the weaning
   of vent; will come off pressors as tolerated s/p extubation.
   # VRE bacteremia/Omaya infection s/p removal/CNS infection: TEE
   negative for vegetations.
   - continue linezolid (day 1: [**2176-4-15**])
   - no role for repeating lumbar puncture for now.
   - CT head today to eval SDH, intracranial processes
   # Hyponatremia: Likely [**1-1**] SIADH from CNS vs pulmonary processes. Na
   nadir at 115, now improved to 125 w hypertonic Na infusion.
   - stopped hypertonic Na infusion in PM
   - meds reviewed with pharmacy and preparations have been concentrated
   and switched to NS from D5 where possible
   - hold free water wherever possible
   - holding additonal diuresis as producing good urine with improvement
   in cardiac output (on dobutamine).
   - continue to monitor Na level
   # Transaminitis: Likely ischemic damage [**1-1**] poor forward flow in the
   setting of cardiogenic shock, resolving w improved blood pressures.
   # ALL: No peripheral blasts.
   - transfuse 2pRBCs given Hct 21
   - d/w BMT
   - consider IT chemotherapy if she continues to recover.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-4-26**] 11:01 AM
   Arterial Line - [**2176-4-26**] 04:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: